US04279806
Thioglycolic acid (40.9 ml, 0.589 mole) obtained from Evans Chemetics, Inc. was added dropwise with stirring to butoxyethoxyethanol (butyl Carbitol) (95.53 g, 0.589 mole) obtained from Fisher Scientific Company with 12% Dowex cation exchange resin HGR-W (10% crosslinking, 11.46 g) as a catalyst. A temperature increase of 6° C. occurred immediately upon addition of the reactants. The solution was further heated and the byproduct, water, was distilled over at 89° C. and collected. When 50% of the water had been collected, a 30% excess of butoxyethoxyethanol (33 mls) was added to increase the rate of product formation. After 3.5 hours a 92.4% yield of butoxyethoxyethyl thioglycolate was obtained and thereafter vacuum distilled at 10 mm Hg and a temperature range of 25°-100° C. in order to remove the unreacted starting materials.

reactant | Thioglycolic acid | 0.589 mole, 40.9 ml | C(CS)(=O)O | C2H4O2S
reactant | butoxyethoxyethanol | 0.589 mole, 95.53 g | C(CCC)OCCOC(C)O | C8H18O3
product | butoxyethoxyethyl thioglycolate | 92.4% yield | C(CS)(=O)OCCOCCOCCCC | C10H20O4S
